US05985849
5-(Hydroxy-1,1-bis(4-methoxyphenyl)methyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine was prepared from 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine according to the method of Example 1 step (i) (but using 4,4'-dimethoxybenzophenone instead of benzophenone).

reactant | 2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | CC(C)(C)[Si](O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=O)NC(=O)C=C1)(C)C | C27H54N2O6Si3
reactant | 4,4'-dimethoxybenzophenone | COC1=CC=C(C(=O)C2=CC=C(C=C2)OC)C=C1 | C15H14O3
product | 5-(Hydroxy-1,1-bis(4-methoxyphenyl)methyl)-2',3',5'-tris-O-((1,1-dimethylethyl)dimethylsilyl)uridine | OC(C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C=1C(NC(N([C@H]2[C@H](O[Si](C)(C)C(C)(C)C)[C@H](O[Si](C)(C)C(C)(C)C)[C@@H](CO[Si](C)(C)C(C)(C)C)O2)C1)=O)=O | C42H68N2O9Si3
